US06743794B2
4-Amino-1-ethylcyclohexanecarboxylate Hydrochloride
Thionyl chloride (2.55 mL, 35 mmol) was added dropwise to absolute ethanol (100 mL) under a N2 atmosphere. The resulting solution was stirred at room temperature for 10 min then 4-amino-1-cyclohexanecarboxylic acid (4.29 g, 30 mmol, cis, trans mixture) was added as a solid. The resulting solution was stirred at room temperature overnight. The solvent was removed in vacuo, the residue dissolved in ethanol (25 mL) and this solution was slowly added to a flask containing rapidly stirred ether (700 mL). The precipitate that formed was collected by filtration and dried in vacuo to give 5.75 g, 92% as a white solid. MS (ion spray) 172 (M+1).

reactant | Thionyl chloride | 35 mmol, 2.55 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-amino-1-cyclohexanecarboxylic acid | 30 mmol, 4.29 g | NC1CCC(CC1)C(=O)O | C7H13NO2
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 4-Amino-1-ethylcyclohexanecarboxylate Hydrochloride | Cl.NC1CCC(CC1)(C(=O)O)CC | InChI=1S/C9H17NO2.ClH/c1-2-9(8(11)12)5-3-7(10)4-6-9;/h7H,2-6,10H2,1H3,(H,11,12);1H
